US09290451B2
e) 7,7-Dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide
The title compound was synthesized in analogy to Example 1, using 7,7-dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid and (αR)-α-(aminomethyl)-α-methyl-cyclo-propanemethanol (CAN 912454-48-9) as starting materials, LC-MS (UV peak area/EIC) 99.3%, 303.2078 (M+H)+.

reactant | 7,7-dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid | CC1(CCC=2C=CC(=NC2C1)C(=O)O)C | C12H15NO2
reactant | (αR)-α-(aminomethyl)-α-methyl-cyclo-propanemethanol | NC[C@](O)(C1CC1)C | C6H13NO
product | 7,7-Dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide | C1(CC1)[C@@](CNC(=O)C1=NC=2CC(CCC2C=C1)(C)C)(C)O | C18H26N2O2
